US04107326
1-(2,6-Dichlorobenzylideneamino)-3-(p-fluorobenzyl)-guanidine hydroiodide
A solution of 5.85 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide (U.S. Pat. No. 3,657,337) and 3.75 g. of p-fluorobenzylamine in 25 ml. of absolute ethanol is heated under reflux for 24 hours and then evaporated under reduced pressure, giving a mixture of gum and crystals. This mixture is dissolved in 50 ml. of absolute ethanol and diluted with 175 ml. of diethyl ether. The colorless plates which form are removed by filtration and discarded. The filtrate is diluted with petroleum ether (b.p. 30°-60° C), causing colorless needles to separate. These needles are removed by filtration and recrystallized from a mixture of ethanol-diethyl ether-petroleum ether (b.p. 30°-60° C), giving the desired product as colorless crystals, m.p. 162.5°-164° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | p-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(2,6-Dichlorobenzylideneamino)-3-(p-fluorobenzyl)-guanidine hydroiodide | I.ClC1=C(C=NNC(=N)NCC2=CC=C(C=C2)F)C(=CC=C1)Cl | InChI=1S/C15H13Cl2FN4.HI/c16-13-2-1-3-14(17)12(13)9-21-22-15(19)20-8-10-4-6-11(18)7-5-10;/h1-7,9H,8H2,(H3,19,20,22);1H
